US08648087B2
Step A: Preparation of (Z)-N′-(4-(benzyloxy)pyridin-2-yl)-N,N-dimethylformamidine:
A 250 mL, single-neck, round-bottomed flask was charged with 4-(benzyloxy)pyridin-2-amine (6.012 g, 30.02 mmol), dimethoxy-N,N-dimethylmethanamine (5.535 ml, 39.03 mmol) and ethanol (100.1 ml). A few drops of TFA were added and the reaction was heated to 50° C. for 4 hours. The reaction was cooled to ambient temperature and concentrated. The crude product was used in the next step without purification.

reactant | 4-(benzyloxy)pyridin-2-amine | 30.02 mmol, 6.012 g | C(C1=CC=CC=C1)OC1=CC(=NC=C1)N | C12H12N2O
reactant | dimethoxy-N,N-dimethylmethanamine | 39.03 mmol, 5.535 ml | COC(N(C)C)OC | C5H13NO2
catalyst | TFA | A few drops | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | ethanol | 100.1 ml | C(C)O | C2H6O
product | (Z)-N′-(4-(benzyloxy)pyridin-2-yl)-N,N-dimethylformamidine | C(C1=CC=CC=C1)OC1=CC(=NC=C1)\N=C/N(C)C | C15H17N3O
